### PR TITLE
feat(CategoryTheory/Enriched/Limits): add HasConicalProducts

### PR DESCRIPTION
**Pull request by joneugster**
Add the definition `CategoryTheory.Enriched.Limits.HasConicalProducts`.

Co-authored-by: Emily Riehl <eriehl@jhu.edu>
Co-authored-by: Dagur Asgeirsson <dagurtomas@gmail.com>

---

- [x] depends on: #20907
- next PR: #20964
- full content: #20967
- source: emilyriehl/infinity-cosmos#78

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean [hunk 1]
```diff
@@ -0,0 +1,152 @@
...
+/-- The canonical comparison map with the limit in `V`. -/
+noncomputable def limitComparison : (X ⟶[V] c.pt) ⟶ limit (F ⋙ eCoyoneda V X) :=
+  limit.lift _ <| (eCoyoneda V X).mapCone c
+
+lemma limitComparison_eq_conePointUniqueUpToIso (h : IsConicalLimit V c)
+    [HasLimit (F ⋙ eCoyoneda V X)] :
+    limitComparison V c X =
+    ((h.isConicalLimit X).conePointUniqueUpToIso (limit.isLimit _)).hom := by
+  apply limit.hom_ext
+  simp [limitComparison]
```
Comment (mo271) [inline Mathlib/CategoryTheory/Enriched/Limits/IsConicalLimit.lean:92]:
```suggestion
    ((h.isConicalLimit X).conePointUniqueUpToIso (limit.isLimit _)).hom := rfl
```
also seems to work
